US04511715
A mixture of 20 ml trichlorosilane, 25 ml chloroform, 8.1 g 1-methylcyclohexene and 0.055 g (phenazine)PtCl2 (C2H4) was refluxed and stirred under nitrogen for 6 days. Distillation of the reaction mixture afforded 2.2 g of trichlorosilylmethylcyclohexane C6H11CH2SiCl3 which was characterized by its mass and NMR spectra.

reactant | trichlorosilane | 20 ml | Cl[SiH](Cl)Cl | Cl3HSi
reactant | 1-methylcyclohexene | 8.1 g | CC1=CCCCC1 | C7H12
reactant | C2H4 | 0.055 g | C=C | C2H4
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | trichlorosilylmethylcyclohexane | 2.2 g | Cl[Si](Cl)(Cl)CC1CCCCC1 | C7H13Cl3Si
